US07807720B2
(R)-3-((S)-2-(4-fluoro-3,5-dimethylbenzyl)-6-(4-fluoro-3-methylbenzyloxy)hexanoyl)-4-benzyloxazolidin-2-one (C4)
To a cooled (−78° C.) solution of (R)-3-(6-(4-fluoro-3-methylbenzyloxy)hexanoyl)-4-benzyloxazolidin-2-one (0.220 g, 0.532 mmol) in 5 mL of THF, was added LiHMDS (0.80 mL, 0.80 mmol, 1.0 M in THF). The resulting mixture was stirred at −78° C. under N2 for 1 h and then a solution of 3,5-dimethyl-4-fluorobenzyl bromide (0.346 g, 1.596 mmol) in 3 mL of THF was added. After stirring at −78° C. for 1 h the reaction mixture was warmed to room temperature for 2 h, and then quenched with 20 mL of NH4Cl solution and extracted with dichloromethane (20 mL×3). The combined organic extracts were dried (Na2SO4), filtered, and concentrated under reduced pressure. The product was isolated by Flash column chromatography (silica gel column) eluting with 0-100% dichloromethane/hexanes to give the title compound as colorless oil (0.106 g, 36% yield). GC-MS: tR=15.6 min; m/z 549 (M+).

reactant | (R)-3-(6-(4-fluoro-3-methylbenzyloxy)hexanoyl)-4-benzyloxazolidin-2-one | 0.532 mmol, 0.220 g | FC1=C(C=C(COCCCCCC(=O)N2C(OC[C@H]2CC2=CC=CC=C2)=O)C=C1)C | C24H28FNO4
reactant | LiHMDS | 0.80 mmol, 1.0 M, 0.80 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 3,5-dimethyl-4-fluorobenzyl bromide | 1.596 mmol, 0.346 g | CC=1C=C(CBr)C=C(C1F)C | C9H10BrF
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (R)-3-((S)-2-(4-fluoro-3,5-dimethylbenzyl)-6-(4-fluoro-3-methylbenzyloxy)hexanoyl)-4-benzyloxazolidin-2-one | 0.106 g, 36% yield | FC1=C(C=C(C[C@@H](C(=O)N2C(OC[C@H]2CC2=CC=CC=C2)=O)CCCCOCC2=CC(=C(C=C2)F)C)C=C1C)C | C33H37F2NO4
